US04692393
(2) Synthesis of 3-methyl-2-(N-acetylanilinovinyl)benzoxazolium iodide
A mixture of 27.7 g (0.1 mole) of 2,3-dimethylbenzoxazolium iodide, 21.6 g (0.11 mole) of N,N'-diphenylformamidine, and 100 ml of acetic anhydride was made and was then refluxed. After cooling the mixture refluxed, 300 ml of acetone were added and were then filtrated to take crystals. The resulted crystals were washed with acetone, so that the objective matter was obtained. The yield thereof was 26.0 g (62%).

reactant | 2,3-dimethylbenzoxazolium iodide | 0.1 mole, 27.7 g | [I-].CC=1OC2=C([N+]1C)C=CC=C2
reactant | N,N'-diphenylformamidine | 0.11 mole, 21.6 g | C1(=CC=CC=C1)NC=NC1=CC=CC=C1 | C13H12N2
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 3-methyl-2-(N-acetylanilinovinyl)benzoxazolium iodide | [I-].C[N+]1=C(OC2=C1C=CC=C2)C=CN(C2=CC=CC=C2)C(C)=O | InChI=1S/C18H17N2O2.HI/c1-14(21)20(15-8-4-3-5-9-15)13-12-18-19(2)16-10-6-7-11-17(16)22-18;/h3-13H,1-2H3;1H/q+1;/p-1
